US07115640B2
B. Preparation of N-(3-{3-benzyl-5-[5-(2-methoxyethoxy)-3-methyl-3H-benzothiazol-2-ylidene]-4-oxothiazolidin-2-ylideneamino}-4-ethylaminophenyl)-2-dimethylaminoacetamide
In a manner similar to Example 30, intermediate 2-dimethylamino-4′-ethylamino-3′-nitroacetanilide was hydrogenated and then condensed with 3-benzyl-5-[5-(2-methoxyethoxy)-3-methylbenzothiazol-2-ylidene]-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate to afford the title compound. 1H-NMR (CDCl3): δ 9.08 (1H, s), 7.46 (2H, d), 7.27–7.35 (5H, m), 7.16 (1H, dd), 6.69 (1H, dd), 6.62 (1H, d), 6.51 (1H, d), 5.14 (2H, s), 4.13 (2H, t), 3.75 (2H, t), 3.71 (2H, s), 3.44 (3H, s), 3.19 (2H, s), 2.94 (2H, q), 2.46 (6H, s), 1.02 (3H, t); MS(ESI): 647(MH+).

reactant | 2-dimethylamino-4′-ethylamino-3′-nitroacetanilide | CN(CC(=O)NC1=CC(=C(C=C1)NCC)[N+](=O)[O-])C | C12H18N4O3
reactant | 3-benzyl-5-[5-(2-methoxyethoxy)-3-methylbenzothiazol-2-ylidene]-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(C1=CC=CC=C1)N1[CH2+](SC(C1=O)=C1SC2=C(N1C)C=C(C=C2)OCCOC)SC
product | N-(3-{3-benzyl-5-[5-(2-methoxyethoxy)-3-methyl-3H-benzothiazol-2-ylidene]-4-oxothiazolidin-2-ylideneamino}-4-ethylaminophenyl)-2-dimethylaminoacetamide | C(C1=CC=CC=C1)N1C(SC(C1=O)=C1SC2=C(N1C)C=C(C=C2)OCCOC)=NC=2C=C(C=CC2NCC)NC(CN(C)C)=O | C33H38N6O4S2
